Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
shellfish derived
 
Attending: ___.
 
Chief Complaint:
"I told my advisor I was suicidal and they sent
me here, even though I've been suicidal for a while."
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ hx MDD, chronic suicidal ideation, who was BIB Police
from ___ campus for a safety evaluation. She is admitted to
___ due to risk of harm to self in the community.

In brief, Ms. ___ confirmed the detailed HPI as per Dr.
___ on my interview. She has had depression for about ___ 
year,
with chronic suicidal ideation. She has not been hospitalized 
for
this and sees both a therapist and a psychiatrist at ___. She
reports that switching from sertraline to fluoxetine and lithium
in ___ helped with her depression and suicidal ideation for
about three months, but that her depressive symptoms, including
anhedonia, decreased motivation, decreased energy, decreased
concentration, increased sleep, and suicidal ideation have 
gotten
worse in that time. She denies any major life events or triggers
and did not spontaneously mention the suicide of her former
academic advisor in ___. She says she is here because "I
told my advisor I was suicidal and they called the police to 
send
me here, even though I've been suicidal for a while and they
don't usually call." She is not sure why they called the police
this time.

She says that she does not want to sign in voluntarily because
her mother does not want her to be in the hospital. She is 
unsure
whether she needs or wants hospitalization. She developed some
SIB recently, reporting that she cuts once monthly. She does say
that she feels she will be safe on the unit and that she thinks
she can be trusted with sharps.

 
Past Medical History:
PAST PSYCHIATRIC HISTORY:
Hospitalizations: denies 
Diagnoses: depression
Current treaters and treatment:
- Psychiatrist: Dr. ___ 
- ___
Medication and ECT trials: sertraline started ___ up to 
200
mg but it didn't help, switched to fluoxetine in ___ and
feels better on it, lithium started ___ (reportedly to
smooth her mood and reduce suicidality, felt better at first but
no longer feels benefit)
Self-injury: has been cutting self ~ once per month on legs 
since
___, light scar visible, uses knife or tweezers
Harm to others: denies
Access to weapons: denies

PAST MEDICAL HISTORY:
- denies

 
Social History:
___
Family History:
FAMILY PSYCHIATRIC HISTORY:
(per patient, verified with mother)
- Cousin with borderline personality disorder
- Father: no history of mental illness, died when young
- Mother: went through 6 mo period of depression w/SSRI 
treatment
after husband passed away
- ___ Aunt: anxiety
- MGM, PGM, PGF all on anti-depressants
- Brother: short term anti-depressant treatment at start of
college

SUBSTANCE ABUSE HISTORY:
- EtOH: denies; drank once per week during Freshman year
- Marijuana: has had one marijuana edible
- Denies all other illicit drug use
 
Physical Exam:
PHYSICAL EXAMINATION:
VS:  T 98.1 HR 66 BP 101/60 RR 18 O2S 97% RA
Gen: NAD, normal posture, well-nourished
HEENT: Sclera anicteric.
CV: Regular rate, +S1/ S2, no murmurs/rubs/gallops. 
Chest: Clear to auscultation bilaterally
Abdomen: Soft, non-tender, non-distended. 

Neuro:
Cranial Nerves: No dysarthria, facial musculature symmetric
Motor: Able to stand under her own strength, moves all
extremities against gravity
Coord: Fine directed movements intact without tremor or ataxia
Gait: Posture, stride, and arm-swing normal.

Neuropsychiatric Examination:
Behavior: cooperative/engaged; normal eye contact; neither PMR
nor PMA
Mood and Affect: "Anxious" ; Affect incongruent with stated 
mood,
reactive, jovial, euthymic, relaxed.
Thought process : Logical, linear, goal-directed, no loosening 
of
associations. Does not appear to be responding to internal
stimuli.
Thought Content : SI without intent, with vague plan. No
homicidal/violent ideation. No Auditory or Visual 
Hallucinations.
No overt paranoia or delusions.
Impulse control: fair
Insight: fair
Judgement: fair

Cognition:
Orientation: Full (Name, Place and Time/Date).
Attention: Serial 7's intact.
Memory: intact to history; ___ registration and 3-minute recall
Fund of knowledge: Average
Calculations: $1.75 = 7 quarters; $17.75 = 71 quarters.
Proverb: "Grass is Greener:" "Glass Houses:" with appropriate,
abstract interpretation
Speech: Normal rate, rhythm, volume, prosody. Demonstrates
appropriate variation in tone. Redirectable.
Language: Fluent ___ speaker without paraphasic errors

 
Pertinent Results:
___ 06:34PM   LITHIUM-0.3*
___ 06:34PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 06:34PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 06:34PM   WBC-5.6 RBC-4.74 HGB-13.3 HCT-40.6 MCV-86 
MCH-28.1 MCHC-32.8 RDW-11.9 RDWSD-37.1
___ 06:34PM   NEUTS-68.2 ___ MONOS-8.8 EOS-2.0 
BASOS-0.4 IM ___ AbsNeut-3.83 AbsLymp-1.14* AbsMono-0.49 
AbsEos-0.11 AbsBaso-0.02
___ 06:34PM   PLT COUNT-220
___ 06:37PM URINE  BLOOD-TR NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG
___ 06:37PM URINE  RBC-<1 WBC-3 BACTERIA-NONE YEAST-NONE 
EPI-1
___ 06:34PM   GLUCOSE-99 UREA N-12 CREAT-0.8 SODIUM-139 
POTASSIUM-4.0 CHLORIDE-103 TOTAL CO2-26 ANION GAP-___. LEGAL & SAFETY:  
The patient refused to sign a conditional voluntary agreement 
(Section 10 & 11) on admission and so was admitted on a ___ and was discharged prior to the expiration date. They were 
also placed on q15 minute checks status on admission and 
remained on that level of observation throughout while being 
unit restricted.

2. PSYCHIATRIC:
Ms. ___ is a ___ with a history of MDD and chronic suicidal 
ideation, who was BIB Police from ___ campus for a safety 
evaluation. She was admitted to
___ due to risk of harm to self in the community. On 
admission, she endorsed suicidal ideation that is chronic with 
thoughts of overdosing, though denied suicidal intent. 
Wellbutrin XL 150 mg QAM was added to her medication regimen as 
an adjunctive treatment. She was also offered hydroxyzine PO 
12.5 mg as a PRN for anxiety or insomnia. On the day of 
discharge, she was future oriented with no suicidal ideation or 
intent. It was also discussed with the patient that DBT may be a 
helpful therapeutic modality for the patient in the future given 
that she expressed interest in psychotherapy directed at 
learning skills as opposed to discussing her past. 

3. MEDICAL
#) No acute medical issues arose while the patient was on the 
unit. 

4. PSYCHOSOCIAL
#) GROUPS/MILIEU:  
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit. The 
patient attended some of these groups that focused on teaching 
patients various coping skills.  She was active and visible on 
the milieu, often seen chatting with other patients in the day 
room.

#) COLLATERAL CONTACTS & FAMILY INVOLVEMENT:
SW spoke with patient's mother who reported she had been unaware 
that patient was struggling with depression and SI and did not 
know she was in treatment at ___.  The 
patient's mother denies family hx of mental illness. She reports 
pt's cousin has a substance use disorder. She wants her daughter 
to be happy, and wonders if BU if the right environment if she 
is so unhappy, although pt has expressed to her that she likes 
BU. She wonders if depressive sxs are related to the loss of her 
father as she does not know if pt has adequately grieved this 
loss. 

SW also spoke with her therapist for collateral information. 

INFORMED CONSENT: The team discussed the indications for, 
intended benefits of, and possible side effects and risks of 
starting Wellbutrin and hydroxyzine, and risks and benefits of 
possible alternatives, including not taking the medication, with 
this patient.   We discussed the patient's right to decide 
whether to take this medication as well as the importance of the 
patient's actively participating in the treatment and discussing 
any  questions about medications with the treatment team, and I  
answered the patient's questions.  The patient appeared able to 
understand and consented to begin the medication.

RISK ASSESSMENT
On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to herself based static factors including 
history of self-injurious behavior and recent exposure to 
suicide, and modifiable risk factors including suicidal 
ideation, depressed mood, and current psychosocial stressors. 
Her modifiable risk factors were addressed during this 
hospitalization by the addition of Wellbutrin and hydroxyzine to 
her medication regimen and through the provision of individual 
and group therapy aimed at improving coping skills. Finally, the 
patient is being discharged with many protective risk factors,  
including positive therapeutic relationship with outpatient 
treaters, hope, help-seeking behavior, and no suicidal ideation 
or intent at the time of discharge. Based on the totality of our 
assessment at this time, the patient is not at an acutely 
elevated risk of self-harm nor danger to others. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lithium Carbonate SR (Lithobid) 900 mg PO DAILY 
2. FLUoxetine 60 mg PO DAILY 

 
Discharge Medications:
1.  BuPROPion XL (Once Daily) 150 mg PO DAILY depression  
2.  HydrOXYzine 25 mg PO TID:PRN anxiety or insomnia 
Take a half to one tablet as needed for anxiety or insomnia  
3.  FLUoxetine 60 mg PO DAILY  
4.  Lithium Carbonate SR (Lithobid) 900 mg PO DAILY 
Lithobid SR  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Persistent Depressive Disorder

 
Discharge Condition:
Ambulatory Status - Independent
Vital Signs: 
T 98.9 BP 121 / 77  HR 88 RR 16 O2 sat 99 
   Neurological:
    *station and gait: no gait abnormalities noted
    *tone and strength: Moves all 4 extremities equally and
spontaneously. 
    cranial nerves: face symmetric, intact to observation
  *Appearance: Thin blond woman appearing stated age, wearing a 
T
shirt and scrub pants. 
  Behavior: Pleasant, cooperative with interview. 
  *Mood and Affect: 'Good!'/Full range of affect
  *Thought process: Linear, goal directed. No loose associations
noted.
  *Thought Content: Denies suicidal thoughts or intent today, 
and is future oriented.  Does not endorse HI or AVH. 
  *Judgment and Insight: Fair/fair
  Cognition: 
    *Attention, orientation: Attentive to interview, oriented to 
date, place, situation.
    Memory: Intact to recent and remote events
    Fund of knowledge: Consistent with level of education
    Speech: Regular rate, rhythm, and volume
    Language: Fluent ___

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___